US04284644
To a solution of 5-cyanospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (185 mg.) in ethanol (10 ml.) were added dropwise 5.5 ml. of 7% aqueous solution of hydrogen peroxide and 3.7 ml. of ethanol, then, to the mixture, was added 2 N aqueous solution of sodium hydroxide to adjust pH 10 and the solution was stirred at 60° C. for 2 hours. After cooling, the reaction mixture was neutralized with diluted hydrochloric acid and diluted with ice-water. The preciptating crystals were collected by filtration, washed with water and recrystallized from ethanol to give colorless needles of 5-carbamoylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (106 mg.). m.p. 243°-244° C.

reactant | 5-cyanospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 185 mg | C(#N)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H7NO2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-carbamoylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 106 mg | C(N)(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H9NO3
